US05380857
Production of 7-(2-thiophenecarbonyl)indole
2 g of 7-cyanoindole (14.1 mmol) in tetrahydrofuran (10 ml) and toluene (15 ml) was introduced in a round flask at 20° C. under inert gas atmosphere. 2-Thienyl magnesium bromide [produced from 6.21 g of 2-bromothiophene (36.8 mmol) and 1.2 g of magnesium (49.4 mmol) in tetrahydrofuran (53 ml)] was added to the above within 5 minutes. The temperature of the reaction mixture was then maintained for 1 hour at 35° C. and then for another 4.5 hours at 45° C. Then the pH of the mixture was adjusted to 0.5 with a 10 percent sulfuric acid and stirred at 45° C. for 45 minutes. It was extracted after neutralization with 30 percent NaOH. Then the organic phase was washed twice with common salt solution (50 ml) and then concentrated by evaporation to a dark brown oil (3.52 g). The latter was dissolved in ethyl acetate (50 ml), then treated with activated carbon and then this solution was concentrated to 20 ml. All of this was cooled to -50° C. for crystallization. 1.2 g of crystallized product was obtained corresponding to a yield of 38 percent relative to 7-cyanoindole used. The product had a melting point of 128.7° to 129.5° C. (light brown crystals). Other data concerning the product was:

reactant | 7-cyanoindole | 14.1 mmol, 2 g | C(#N)C=1C=CC=C2C=CNC12 | C9H6N2
reactant | 2-Thienyl magnesium bromide | 36.8 mmol, 53 ml, 6.21 g | S1C(=CC=C1)[Mg]Br
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(2-thiophenecarbonyl)indole | 1.2 g, yield of 38 percent | S1C(=CC=C1)C(=O)C=1C=CC=C2C=CNC12 | C13H9NOS
